data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-CC_2-O_3-Cl_4-C_5-CC","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(CC)c(O)c(Cl)c1C","C(CC)#N"],"products_smiles": ["c1(C(=O)CC)c(O)c(CC)c(O)c(Cl)c1C"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])CC)C(=[OH+])c(CC)c(O)c(Cl)c1C","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])CC)c(O)c(CC)c(O)c(Cl)c1C","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])CC)c(O)c(CC)c(O)c(Cl)c1C","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)CC)c(O)c(CC)c(O)c(Cl)c1C","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-130_1-c2ccccc2_2-c2ccc(OC)cc2_3-c2ccccc2","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(c2ccc(OC)cc2)=C(c2ccccc2)N(c2ccccc2)c2ccccc2"],"products_smiles": ["c1ccc2c(c1)c(c2ccc(OC)cc2)c(c2ccccc2)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(OC)cc2)=C(c2ccccc2)N(c2ccccc2)c2ccccc2","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(OC)cc2)C(c2ccccc2)=[N+](c2ccccc2)c2ccccc2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(c2ccc(OC)cc2)C(c2ccccc2)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(c2ccc(OC)cc2)c(c2ccccc2)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-208_1-C(C)(C)C_2-CC_3-CC#N_4-C(C)C","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(C)(C)C)=C(CC)C(CC#N)(C(C)C)OC=N"],"products_smiles": ["C(=O)NC(C(C)(C)C)C(CC)=C(CC#N)(C(C)C)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(C)(C)C)C(CC)=C(CC#N)(C(C)C)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
